US04810713
4-[3-[4-[Bis(4-fluorophenyl)hydroxymethyl]-1-piperidinyl]propoxy]benzenesulfonamide hydrochloride [1:1]
This compound was prepared according to the procedure of Example 1. A mixture of 3.0 g (0.01 mole) of [α,α-bis(p-fluorophenyl)]-4-piperidinemethanol, 2.5 g (0.01 mole) of 4-(3-chloropropoxy)benzenesulfonamide, 5.3 g (0.05 mole) of anhydrous sodium carbonate and 0.3 g of potassium iodide in 100 ml of 1-butanol gave a gum as residue. The gum was converted to the hydrochloride with ethereal hydrogen chloride and the solid was recrystallized from absolute ethanol to yield 3.5 g (64%) of white solid, m.p. 152°-175° C.

reactant | [α,α-bis(p-fluorophenyl)]-4-piperidinemethanol | 0.01 mole, 3.0 g | FC1=CC=C(C=C1)C(O)(C1CCNCC1)C1=CC=C(C=C1)F | C18H19F2NO
reactant | 4-(3-chloropropoxy)benzenesulfonamide | 0.01 mole, 2.5 g | ClCCCOC1=CC=C(C=C1)S(=O)(=O)N | C9H12ClNO3S
reactant | sodium carbonate | 0.05 mole, 5.3 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | 0.3 g | [I-].[K+]
reactant | hydrochloride | Cl | ClH
solvent | 1-butanol | 100 ml | C(CCC)O | C4H10O
product | 4-[3-[4-[Bis(4-fluorophenyl)hydroxymethyl]-1-piperidinyl]propoxy]benzenesulfonamide hydrochloride | 3.5 g, 64% | Cl.FC1=CC=C(C=C1)C(C1CCN(CC1)CCCOC1=CC=C(C=C1)S(=O)(=O)N)(O)C1=CC=C(C=C1)F | InChI=1S/C27H30F2N2O4S.ClH/c28-23-6-2-20(3-7-23)27(32,21-4-8-24(29)9-5-21)22-14-17-31(18-15-22)16-1-19-35-25-10-12-26(13-11-25)36(30,33)34;/h2-13,22,32H,1,14-19H2,(H2,30,33,34);1H
